US05021574
2-Amino-6-[1-[1-[bis(4-fluorophenyl)methyl]piperazin-4-yl]-2-hydroxy-3-propanyl-thio]purine Hemihydrate
To 2-amino-6-mercaptopurine (10 mmol, 1.67 g) in DMF (25 mL) was added triethylamine (10 mmol, 1.4 mL). After stirring about 5 min, 1-(1-chloro-2-hydroxy-3-propanyl)-4-(4,4'-difluorobenzhydryl)piperazine (10 mmol, 3.81 g) in DMF (20 mL) was added dropwise over 5 min. under nitrogen. After one week, the DMF was removed in vacuo and the resultant crude solid was flash chromatographed over silica gel using 5% MeOH: CH2Cl2 to give the desired product (2.82 g, 55.1%) as a white solid, mp 118°-122° C. (dec.). MS DCI (M+1) 512; (400 MHz) 1H NMR (CDCl3) δ: 7.9 (s, 1H); 7.3 (m, 4H), 6.95 (m, 4H), 4.2 (s, 1H), 4.15 (m, 1H), 3.3 (m, 2H), 2.3-2.6 (m, 10H).

reactant | 2-amino-6-mercaptopurine | 10 mmol, 1.67 g | NC1=NC(=C2NC=NC2=N1)S | C5H5N5S
reactant | triethylamine | 10 mmol, 1.4 mL | C(C)N(CC)CC | C6H15N
reactant | 1-(1-chloro-2-hydroxy-3-propanyl)-4-(4,4'-difluorobenzhydryl)piperazine | 10 mmol, 3.81 g | ClCC(CN1CCN(CC1)C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)O | C20H23ClF2N2O
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-Amino-6-[1-[1-[bis(4-fluorophenyl)methyl]piperazin-4-yl]-2-hydroxy-3-propanyl-thio]purine Hemihydrate | 2.82 g, 55.1% | O.NC1=NC(=C2NC=NC2=N1)SCC(CN1CCN(CC1)C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)O.NC1=NC(=C2NC=NC2=N1)SCC(CN1CCN(CC1)C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)O | InChI=1S/2C25H27F2N7OS.H2O/c2*26-18-5-1-16(2-6-18)22(17-3-7-19(27)8-4-17)34-11-9-33(10-12-34)13-20(35)14-36-24-21-23(30-15-29-21)31-25(28)32-24;/h2*1-8,15,20,22,35H,9-14H2,(H3,28,29,30,31,32);1H2
